US04191758
A solution of 32.2 g. of ethylmercaptan in 310 ml. of dimethylformamide was added dropwise with cooling and nitrogen gasification to a suspension of 25 g. of 50% sodium hydride in 310 ml. of dimethylformamide. The mixture was subsequently treated with a solution of 27 g. of 2,4-diamino-5-(3,5-dimethoxybenzyl)pyrimidine in 310 ml. of dimethylformamide, stirred at 100° C. for 17 hours, cooled down to room temperature and concentrated under a high vacuum. The residue, dissolved in a small amount of water, was filtered, the filtrate was extracted three times with 50 ml. of benzene each time and the aqueous phase was adjusted to pH 4-5 with concentrated hydrochloric acid while cooling with ice-water. Subsequently, it was brought to pH 9 with concentrated ammonia and the precipitated product, 23.3 g. of α-(2,4-diamino-5-pyrimidyl)-5-methoxy-m-cresol of melting point 254°-255° C. (from methanol) was isolated.

reactant | ethylmercaptan | C(C)S | C2H6S
reactant | sodium hydride | [H-].[Na+]
reactant | 2,4-diamino-5-(3,5-dimethoxybenzyl)pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=CC(=C1)OC)OC | C13H16N4O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | α-(2,4-diamino-5-pyrimidyl)-5-methoxy-m-cresol | NC1=NC=C(C(=N1)N)CC1=CC(=CC(=C1)OC)O | C12H14N4O2
